US08729068B2
A mixture of 10.6 mg of 2-amino-N-(4-methoxyphenyl)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide, 10.9 mg of 3-(4-acetyl-piperazine-1-sulfonyl)benzoic acid, 16.0 mg of HATU, 0.012 mL of N,N-diisopropylethylamine, and 1 mL of DMA was stirred at room temperature overnight. The reaction mixture was separated by the addition of chloroform and water, and then the organic layer was concentrated under reduced pressure. The obtained residue was purified by preparative high performance liquid chromatography (methanol-0.1% aqueous formic acid solution) to obtain 5.2 mg of 2-({3-[(4-acetylpiperazin-1-yl)sulfonyl]benzoyl}amino)-N-(4-methoxyphenyl)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide.

reactant | 2-amino-N-(4-methoxyphenyl)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 10.6 mg | NC=1SC2=C(C1C(=O)NC1=CC=C(C=C1)OC)CCCC2 | C16H18N2O2S
reactant | 3-(4-acetyl-piperazine-1-sulfonyl)benzoic acid | 10.9 mg | C(C)(=O)N1CCN(CC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C13H16N2O5S
reactant | HATU | 16.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.012 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | 2-({3-[(4-acetylpiperazin-1-yl)sulfonyl]benzoyl}amino)-N-(4-methoxyphenyl)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 5.2 mg | C(C)(=O)N1CCN(CC1)S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)OC)CCCC3)C=CC1 | C29H32N4O6S2
